US04493843
3-(n-Octanoyl)indole-6-carboxylic acid (39.4 g) in glacial acetic acid (860 ml), containing perchloric acid (37 ml, of strength 70% w/v), was hydrogenated over palladium on charcoal (17 g of 5% w/w) at atmospheric pressure and at a temperature between 80°-90° C. The catalyst was removed by hot filtration through diatomaceous earth and on cooling a solid separated which was collected. The solid was washed with diethyl ether (2×100 ml) and was dissolved in ethyl acetate. The ethyl acetate solution was washed with an aqueous solution of sodium carbonate (2×100 ml of strength 2N) and was dried over magnesium sulphate and on evaporation in vacuo gave an off-white solid. The solid was dissolved in ethyl acetate (200 ml) and hydrogen chloride gas was bubbled through the solution. The resulting solid was collected and was washed with diethyl ether (2×200 ml) to give (RS)-3-(n-octyl)indoline-6-carboxylic acid hydrochloride (14.5 g), in the form of an off-white solid, m.p. 233°-234° C. with decomposition.

reactant | 3-(n-Octanoyl)indole-6-carboxylic acid | 39.4 g | C(CCCCCCC)(=O)C1=CNC2=CC(=CC=C12)C(=O)O | C17H21NO3
reactant | perchloric acid | 37 ml | Cl(=O)(=O)(=O)O | ClHO4
solvent | acetic acid | 860 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on charcoal | 17 g | [Pd] | Pd
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | (RS)-3-(n-octyl)indoline-6-carboxylic acid hydrochloride | 14.5 g | Cl.C(CCCCCCC)C1CNC2=CC(=CC=C12)C(=O)O | InChI=1S/C17H25NO2.ClH/c1-2-3-4-5-6-7-8-14-12-18-16-11-13(17(19)20)9-10-15(14)16;/h9-11,14,18H,2-8,12H2,1H3,(H,19,20);1H
